US06890916B2
4-Chloro-1-(3,4-dihydro-1H-isoquinolin-2-yl)butan-1-one
from 3,4-dihydro-1H-isoquinoline and 4-chlorobutanoyl chloride

reactant | 3,4-dihydro-1H-isoquinoline | C1NCCC2=CC=CC=C12 | C9H11N
reactant | 4-chlorobutanoyl chloride | ClCCCC(=O)Cl | C4H6Cl2O
product | 4-Chloro-1-(3,4-dihydro-1H-isoquinolin-2-yl)butan-1-one | ClCCCC(=O)N1CC2=CC=CC=C2CC1 | C13H16ClNO
